data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(=O)OCC1C(C(C([CH:20]([O:10]1)[Cl:21])OC(=O)C)OC(=O)C)OC(=O)C.CCO.COC1=CC=C(C=C1)O[K]>>CC(=O)OCC1C(C(C([CH:20]=[O+:10]1)OC(=O)C)OC(=O)C)OC(=O)C.[Cl-:21].CCO.COC1=CC=C(C=C1)O[K] 10=20;20,21=21
C[C+]=C[Si:20](C)(C)C.C[O:10][Zn]OC>>C[C+]=C[Si-:20](C)(C)(C)[O+:10](C)[Zn]OC 10=20,
[H:20][Cl:21].[C-:10]#CCC1=C(C=CC=C1)N>>[H:20][C:10]#CCC1=C(C=CC=C1)N.[Cl-:21] 10=20;20,21=21
[H:20][Cl:21].C1CN(CC(C1=[O:10])CC(=O)C2=CC=CC=C2)CC3=CC=CC=C3.O>>[H:20][O+:10]=C1CCN(CC1CC(=O)C2=CC=CC=C2)CC3=CC=CC=C3.[Cl-:21].O 10=20;20,21=21
CC[C:11](=[CH:10]C)[O-:12].[Br:20][Br:21]>>CC[C:11](=[O:12])[CH:10](C)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
CC(C(=O)NCCC(=O)O)N[C:20](=[OH+:21])[O:10][C:11](C)(C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C(=O)NCCC(=O)O)N[C:20](=[O:10])[OH:21].C[C+:11](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
[B-:10]([O+:11]=C(C)CCC)(F)(F)F>>[B:10](F)(F)F.CCCC(=[O:11])C 10,11=11
[H:20][C:21]1(C=C(C=C([C+:22]1OC(=O)C2=CC=CC=C2)Br)Br)Br.[Fe-]([Br:10])(Br)(Br)Br>>[H:20][Br+:10][Fe-](Br)(Br)Br.C1=CC=C(C=C1)C(=O)O[C:22]2=[C:21](C=C(C=C2Br)Br)Br 10=20;20,21=21,22
CC(=C)C[OH:10].C[C+:20](C)CO>>CC(=C)C[OH+:10][C:20](C)(C)CO 10=20,
CCCCCOCC1C(C[CH:20]([O:10]1)[N+:21]2=CC(=CC=C2)CC)O>>CCCCCOCC1C(C[CH:20]=[O+:10]1)O.CCC1=CC=C[N:21]=C1 10=20;20,21=21
CC(C)(C)[NH2:10].C1=CC(=CC=C1[CH2:20][Br:21])C#N>>CC(C)(C)[NH2+:10][CH2:20]C1=CC=C(C=C1)C#N.[Br-:21] 10=20;20,21=21
C1=CC=C(C=C1)C(=O)[CH:20]2C([O:21]2)(C3=CC=CC=C3)C(=O)O.[Br-:10].CCCC[N+](CCCC)(CCCC)CCCC>>C1=CC=C(C=C1)C(=O)[CH:20](C(C2=CC=CC=C2)(C(=O)O)[O-:21])[Br:10].CCCC[N+](CCCC)(CCCC)CCCC 10=20;20,21=21
[B:20]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)CC=C.CC1(OCC(CO1)(C)C=[O:10])C>>[B-:20]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)(CC=C)[O+:10]=CC2(COC(OC2)(C)C)C 10=20,
C(=[O:10])O.Cl[Ti:20](Cl)(Cl)Cl>>C(=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl)O 10=20,
COC1CC2[C+:22]([CH:21]=[CH:20]1)C3CN2CC4=CC5=C(C=C34)OCO5.[OH-:10].CS(=O)(=O)[O-]>>COC1CC2[C:22](=[CH:21][CH:20]1[OH:10])C3CN2CC4=CC5=C(C=C34)OCO5.CS(=O)(=O)[O-] 10=20;20,21=21,22
[H:20][O+:21](CC)C(C)(CC)C(C)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC(C)(C(C)O)[O:21]CC 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)OCC=C)C(CC)OC2=CC=CC=C2.[F-:10]>>[H:20][F:10].CCC([C:21]1=[CH:22][CH:23]=[C:24](C=C1)OCC=C)OC2=CC=CC=C2 10=20;20,21=21,22;22,23=23,24
CC(=O)C=CCC[CH:20]=[CH:21][C:22](=[O:23])C.C1=CC=C(C=C1)[S:10][K].O>>CC(=O)C=CCC[CH:20]([CH:21]=[C:22](C)[O-:23])[S+:10](C1=CC=CC=C1)[K].O 10=20;22,23=23;20,21=21,22
[H:20][C:21]1([CH+:22]C=C(O1)C(F)(F)F)Br.[Br-:10]>>[H:20][Br:10].C1=C(O[C:21](=[CH:22]1)Br)C(F)(F)F 10=20;20,21=21,22
[H:20][O:21][P+:22](C)(C)C.C[O-:10]>>[H:20][O:10]C.C[P:22](=[O:21])(C)C 10=20;20,21=21,22
[H:20][NH3+:21].C1CCC2=C(C1)CC(N2)(C3=CC=C(C=C3)Cl)[O-:10].CO.O>>[H:20][O:10]C1(CC2=C(N1)CCCC2)C3=CC=C(C=C3)Cl.[NH3:21].CO.O 10=20;20,21=21
C(CO)C(=[O+][S:20]([O-:10])(Cl)[Cl:21])O>>C(CO)C(=[O+][S:20](=[O:10])Cl)O.[Cl-:21] 10=20;20,21=21
CC(=O)NC1=CC=C(C=C1)C[C:20](O)([O-:10])[O:21]C2=CC=C(C=C2)NC(=O)C>>CC(=O)NC1=CC=C(C=C1)C[C:20](=[O:10])O.CC(=O)NC1=CC=C(C=C1)[O-:21] 10=20;20,21=21
C[CH+:20]C.[CH:11]1=[CH:10]OC(=C1)C(F)(F)F>>C[CH:20](C)[CH:10]1[CH+:11]C=C(O1)C(F)(F)F 10,11=10,20
[H:20][O:21]C(C[CH:10]=[C:11](C)[O-:12])(C1=CC=C(C=C1)OC)C2=[N+](C(=C(S2)CCO)C)CC.CC[NH+](CC)CC.CCO.[Br-]>>[H:20][CH:10](CC(C1=CC=C(C=C1)OC)(C2=[N+](C(=C(S2)CCO)C)CC)[O-:21])[C:11](=[O:12])C.CC[NH+](CC)CC.CCO.[Br-] 10,11=10,20;20,21=21;12=11
C[Si](C)(C)C[C:11]#[C:10]CC(C[CH:20]=[O+:21][Zn-](Cl)Cl)C1=CC=CC=C1.[Cl-]>>C[Si](C)(C)C[C+:11]=[C:10]1CC(C[CH:20]1[O:21][Zn-](Cl)Cl)C2=CC=CC=C2.[Cl-] 10,11=10,20;20,21=21
[H:20][C:21]1(C=CC=C([CH+:22]1)C(Cl)(Cl)Cl)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[CH:22]C(=C1)C(Cl)(Cl)Cl)[N+](=O)[O-] 10=20;20,21=21,22
C[C:20](=[O:21])OC=O.[OH-:10]>>C[C:20]([OH:10])([O-:21])OC=O 10=20;20,21=21
[H:20][CH:21]1C=C([O+:23]=[C:22]1C2=CC=CC(=C2)Br)C3=CC=C(C=C3)Br.[OH2:10].CO.[Cl-]>>[H:20][OH2+:10].C1=CC(=CC(=C1)[C:22]2=[CH:21]C=C([O:23]2)C3=CC=C(C=C3)Br)Br.CO.[Cl-] 10=20;22,23=23;20,21=21,22
CC[C+:20](C)C1=CC=CC=C1.CC[OH:10]>>CC[C:20](C)(C1=CC=CC=C1)[OH+:10]CC 10=20,
C1CO[C:20]([O:21]1)(N)[O-:10]>>C(CO[C:20](=[O:10])N)[O-:21] 10=20;20,21=21
COC=[NH:10].[CuH2:20]>>COC=[NH+:10][CuH2-:20] 10=20,
CC(C)CCCC(C)C1CCC2C1(CCC3C2CCC4C3(CC[C:20](=[O:21])C4)C)C.[CH3:10][Mg:11]I>>CC(C)CCCC(C)C1CCC2C1(CCC3C2CCC4C3(CC[C:20](C4)([CH3:10])[O-:21])C)C.[Mg+:11]I 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.C[N:10]1CCC(CC1)(C#N)C2=CC=CC=C2.CO>>[H:20][N+:10]1(CCC(CC1)(C#N)C2=CC=CC=C2)C.OS(=O)(=O)[O-:21].CO 10=20;20,21=21
CC(C)(C)[Si-:10](C)(C)(C)[O+:11]=C>>CC(C)(C)[Si:10](C)(C)C.C=[O:11] 10,11=11
[CH:20]([OH2+:21])(O)[OH:10].[Cl-]>>[CH:20](=[OH+:10])O.[OH2:21].[Cl-] 10=20;20,21=21
[H:20][N+:21]1(C(=CCC1(C)O)C)C2=CC3=C(C=C2)C(=C(O3)C4=CC=CC=C4)I.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.O>>[H:20][N+:10]1=CC=CC=C1.CC1=CCC([N:21]1C2=CC3=C(C=C2)C(=C(O3)C4=CC=CC=C4)I)(C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.O 10=20;20,21=21
